US06180622B2
Iodomethane (0.76 g) is added to 62.8 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate (stereoisomer A) described in Example 12-d), and the mixture is stirred in an argon atmosphere in a light-shielded state at room temperature for 19.5 hr. The excess reagent is removed by evaporation under reduced pressure, and the residue is purified by column chromatography on Sephadex LH-20 (dichloromethane:methanol=1:1) to give 65 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(6-methylimidazo[5,1-b]thiazolium-5-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide (sterecisomer A) as a milky white, glass-like solid.

reactant | Iodomethane | 0.76 g | IC | CH3I
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 62.8 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(C1=NC=C2SC=CN21)O)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O7S2
product | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(6-methylimidazo[5,1-b]thiazolium-5-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide | 65 mg | [I-].C(C=C)OC(=O)N1C[C@H](C[C@H]1C(C=1N(C=C2SC=C[N+]21)C)O)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C28H35N4O7S2.HI/c1-6-9-38-27(36)22-24(15(3)21-20(16(4)33)26(35)32(21)22)41-17-12-18(31(13-17)28(37)39-10-7-2)23(34)25-29(5)14-19-30(25)8-11-40-19;/h6-8,11,14-18,20-21,23,33-34H,1-2,9-10,12-13H2,3-5H3;1H/q+1;/p-1/t15-,16-,17+,18+,20-,21-,23?;/m1./s1
